US08865736B2
Methyl 2-[3-(aminocarbonyl)-2,4-difluorophenoxy]acetate
A mixture of 2,6-difluoro-3-hydroxybenzenecarboxamide (1.2 g, 7 mmol, 1 equiv.), K2CO3 (2.87 g, 21 mmol, 3 equiv.) and methyl bromoacetate (0.69 ml, 7.35 mmol, 1.05 equiv.) in DMF (30 ml) was stirred at r.t. for 18 h. The mixture was diluted with water and extracted with EtOAc (4×80 ml). The combined organic extracts were dried (MgSO4) and evaporated to dryness under reduced pressure. The product was used crude on the next step. HPLC-MS (method 1): m/z 246 [M+H]+, Rt=2.08 min.

reactant | 2,6-difluoro-3-hydroxybenzenecarboxamide | 7 mmol, 1.2 g, 1 equiv. | FC1=C(C(=CC=C1O)F)C(=O)N | C7H5F2NO2
reactant | K2CO3 | 21 mmol, 2.87 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 7.35 mmol, 0.69 ml, 1.05 equiv. | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 2-[3-(aminocarbonyl)-2,4-difluorophenoxy]acetate | NC(=O)C=1C(=C(OCC(=O)OC)C=CC1F)F | C10H9F2NO4
